US07612114B2
6-{2-{Ethyl{2-[4-(2-piperidin-1-ylethoxy)phenyl]ethyl}amino}phenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from 4-{2-{ethyl[2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amino}ethyl}phenol and 1-(2-chloroethyl)piperidine hydrochloride according to an analogous synthetic method to Preparation Example 40, ethyl[2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]{2-[4-(2-piperidin-1-ylethoxy)phenyl]ethyl}amine (308 mg) was used according to an analogous synthetic method to Example 111 to provide the title compound (260 mg).

reactant | 4-{2-{ethyl[2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amino}ethyl}phenol | C(C)N(CCC1=CC=C(C=C1)O)C1=C(C=CC=C1)C1CC2=CC=C(C=C2CC1)OC | C27H31NO2
reactant | 1-(2-chloroethyl)piperidine hydrochloride | Cl.ClCCN1CCCCC1
reactant | ethyl[2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]{2-[4-(2-piperidin-1-ylethoxy)phenyl]ethyl}amine | 308 mg | C(C)N(CCC1=CC=C(C=C1)OCCN1CCCCC1)C1=C(C=CC=C1)C1CC2=CC=C(C=C2CC1)OC | C34H44N2O2
product | 6-{2-{Ethyl{2-[4-(2-piperidin-1-ylethoxy)phenyl]ethyl}amino}phenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 260 mg | C(C)N(C1=C(C=CC=C1)C1CC=2C=CC(=CC2CC1)O)CCC1=CC=C(C=C1)OCCN1CCCCC1 | C33H42N2O2
